US07855294B2
540 mg of potassium carbonate and 0.25 mL of benzyl bromide were added to N,N-dimethylformamide (7 mL) solution of 453 mg of methyl (3RS,4SR)-4-o-tolyl-piperidine-3-carboxylate obtained in Production Example 31, and stirred at 70° C. for 1.5 hours. Then, this was restored to room temperature, aqueous saturated sodium hydrogencarbonate solution was added thereto and extracted with ether. The ether layer was washed with saturated saline water, and dried with anhydrous sodium sulfate, and the solvent was evaporated off under reduced pressure. The residue was separated and purified through silica gel column chroamtography (hexane/ethyl acetate=9/1) to obtain 463 mg of methyl (3RS,4SR)-1-benzyl-4-o-tolyl-piperidine-3-carboxylate. The compound was processed in the same manner as in Production Example 33-1 to obtain 360 mg of the entitled compound.

reactant | potassium carbonate | 540 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.25 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl (3RS,4SR)-4-o-tolyl-piperidine-3-carboxylate | 453 mg | C1(=C(C=CC=C1)C1C(CNCC1)C(=O)OC)C | C14H19NO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | methyl (3RS,4SR)-1-benzyl-4-o-tolyl-piperidine-3-carboxylate | 463 mg | C(C1=CC=CC=C1)N1CC(C(CC1)C1=C(C=CC=C1)C)C(=O)OC | C21H25NO2
